US07750003B2
(4-{4-Morpholin-4-yl-6-[(phenylsulfonyl)methyl]pyrimidin-2-yl}phenyl)amine
4-{2-Chloro-6-[(phenylsulfonyl)methyl]pyrimidin-4-yl}morpholine (3.3 g, 9.33 mmol) was dissolved in a solution of 18% DMF in a mixture of 7:3:2 dimethoxyethane:water:ethanol (36 mL). [4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]amine (3.07 g, 13.99 mmol), 2M sodium carbonate solution (12 mL) and dichlorobis(triphenylphosphine) palladium catalyst (328 mg, 0.47 mmol) were then added and the reaction refluxed at 90° C. for 2 hours under a nitrogen atmosphere. The reaction was allowed to cool to room temp then partitioned between ethyl acetate (20 mL) and water (20 mL). The organics were dried over magnesium sulphate, filtered and concentrated in vacuo. The crude oil was dissolved in DCM and filtered to remove insoluble material. A beige solid precipitated from the filtrates and the filtrates were filtered again. The solid was analysed and found to be the desired material (2.2 g).

reactant | 4-{2-Chloro-6-[(phenylsulfonyl)methyl]pyrimidin-4-yl}morpholine | 9.33 mmol, 3.3 g | ClC1=NC(=CC(=N1)N1CCOCC1)CS(=O)(=O)C1=CC=CC=C1 | C15H16ClN3O3S
reactant | water | O | H2O
reactant | [4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]amine | 13.99 mmol, 3.07 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)N)C | C12H18BNO2
reactant | sodium carbonate | 2M, 12 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | dimethoxyethane | C(OC)COC | C4H10O2
solvent | ethanol | 36 mL | C(C)O | C2H6O
product | (4-{4-Morpholin-4-yl-6-[(phenylsulfonyl)methyl]pyrimidin-2-yl}phenyl)amine | N1(CCOCC1)C1=NC(=NC(=C1)CS(=O)(=O)C1=CC=CC=C1)C1=CC=C(C=C1)N | C21H22N4O3S
